US04652556
Preparation of N-Cyanomethyl phenylsulfonamide
To a stirred solution of 27.8 g (0.3 moles) aminoacetonitrile hydrochloride and 24.0 g (0.3 moles) 50% aqueous sodium hydroxide in 200 ml water, 17.7 g (0.1 mole) benzenesulfonyl chloride were dropped in over about 25 minutes. During the addition, the temperatures of the reaction mixture was kept under 20° C. using an ice bath. After the addition was complete, the ice bath was removed; stirring of the reaction mixture continued for about 30 minutes. The solids which formed were isolated by filtration and were washed with 200 ml water. The resulting beige solids were dissolved in 150 ml methylene chloride, dried over magnesium sulfate and stripped. The resulting white solids were washed with hexane, filtered and air-dried to give 13.9 g of the above-identified product, melting point 81°-83° C.

reactant | aminoacetonitrile hydrochloride | 0.3 moles, 27.8 g | Cl.NCC#N
reactant | sodium hydroxide | 0.3 moles, 24.0 g | [OH-].[Na+]
reactant | benzenesulfonyl chloride | 0.1 mole, 17.7 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | water | 200 ml | O | H2O
product | N-Cyanomethyl phenylsulfonamide | 13.9 g | C(#N)CNS(=O)(=O)C1=CC=CC=C1 | C8H8N2O2S
